Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea, Cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a PMH of remote cocaine use, anxiety, depression, 
remote smoking history and asthma who p/w 3 days of sore throat, 
cough productive of thick yellow sputum with associated headache 
and body ache that pt associates with the coughing. On ___ pt 
used her albuterol nebs 4 times (normally she uses them twice 
daily) because she was concerned that she had a viral infection 
that would worsen her breathing. On the night of ___ patient 
awoke to go to the bathroom, stood up and found herself to be 
dizzy and short of breath. She was concerned about fainting and 
so called ___. Pt reports this episode is similar to prior 
severe asthma exacerbations. Pt has never been admitted to ICU 
or intubated.

Pt denies fevers, chest pain, nausea/vomiting, abdominal pain, 
diarrhea, constipation, urinary frequency/dysuria.

In the ED, initial vitals: 97.8, 74, 127/100, 22, 100%/RA. Exam 
was notable for diffuse wheezing. Labs were notable for: Flu A/B 
PCR negative, K 2.8 otherwise normal BMP, normal CBC, diff 
notable for 88.4% neutrophils, 7.2% lymphs, 3.6% monos. K 3.4 
after repltion. CXR was unremarkable. Flu swab negative. Pt 
received potassium repletion, tylenol, magnesium, prednisone 60 
mg, IV salumedrol 125 mg IV, and duonebs x 5. PF improved to 150 
after nebulizer treatments however pt still SOB at rest with 
persistent wheezing and requiring Q1H nebs. 

On arrival to the MICU, Pt was 97% on 3L O2 NC. 
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.
 
Past Medical History:
Past Medical History: 
Cocaine abuse ___ years sober)
Asthma
Previously torn rotator cuff
Low back pain   
Chronic leg pain    
Anxiety
Depression    

Past Surgical History:
Hysterectomy ___
Lymph node removal ___
 
Social History:
___
Family History:
Mother- HTN, CAD, DM, bipolar
Father- Unknown

 
Physical ___:
=============================
ADMISSION PHYSICAL EXAM:  
=============================
Vitals:  98.3, 102, 148/75, 25, 97%/3L NC
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: Tachycardic, S1/S2, no murmurs, gallops, or rubs  
LUNG: Decreased breath sounds and wheezes throughout.   
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, ___ strength in UE and ___ bilaterally 

=============================
DISCHARGE PHYSICAL EXAM:  
=============================
Vitals: 98;1
PO 142 / 78
L Lying 63 16 100 RA 
General: Well appearing, SCM use for breathing, no apparent 
distress
HEENT: sclera anicteric, EOMI, PERRL, MMM  
NECK: supple, nontender, no JVD  
CARDIAC: Tachycardic, prominent S1/S2, no murmurs, gallops, or 
rubs  
LUNG: Decreased breath sounds at bases , mild 
inspiratory/expiratory wheezes throughout upper/mid lung fields, 
no rhonchi/crackles, poor air sounds in lower bases 
ABDOMEN: normal bowel sounds, nondistended, nontender in all 
quadrants  
EXTREMITIES: no cyanosis, clubbing or edema
NEURO: CN II-XII intact  

 
Pertinent Results:
====================
Admission Labs
=====================
___ 04:32AM BLOOD WBC-9.2# RBC-4.02 Hgb-11.2 Hct-36.4 
MCV-91 MCH-27.9 MCHC-30.8* RDW-14.4 RDWSD-47.9* Plt ___
___ 04:32AM BLOOD Neuts-88.4* Lymphs-7.2* Monos-3.6* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-8.12*# AbsLymp-0.66* 
AbsMono-0.33 AbsEos-0.01* AbsBaso-0.03
___ 04:32AM BLOOD ___ PTT-29.9 ___
___ 04:32AM BLOOD Glucose-160* UreaN-9 Creat-1.1 Na-143 
K-2.8* Cl-105 HCO3-26 AnGap-15
___ 04:32AM BLOOD Calcium-8.1* Phos-2.4* Mg-1.7
___ 01:16PM BLOOD K-3.4

========================
Micro
========================
___ 04:35AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

========================
Diagnostics
========================
CXR ___
FINDINGS:  
The lungs are clear without focal consolidation.  No pleural 
effusion or pneumothorax is seen. The cardiac and mediastinal 
silhouettes are unremarkable. 
  
IMPRESSION:   
No acute cardiopulmonary process. 

========================
Discharge labs:
========================
___ 06:17AM BLOOD WBC-11.1* RBC-3.62* Hgb-9.9* Hct-32.8* 
MCV-91 MCH-27.3 MCHC-30.2* RDW-15.2 RDWSD-50.5* Plt ___
___ 06:17AM BLOOD Plt ___
___ 04:32AM BLOOD Neuts-88.4* Lymphs-7.2* Monos-3.6* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-8.12*# AbsLymp-0.66* 
AbsMono-0.33 AbsEos-0.01* AbsBaso-0.03
___ 06:17AM BLOOD Glucose-83 UreaN-16 Creat-0.8 Na-142 
K-3.5 Cl-104 HCO3-31 AnGap-11
___ 06:17AM BLOOD Calcium-8.3* Phos-3.2 Mg-2.___ with a PMH of remote cocaine use, anxiety, depression, 
remote smoking history and asthma who presented with 3 days of 
cough, one day of SOB with aching substernal CP after coughing 
consistent with asthma attack. Initially patient went to the ICU 
and then was  called out the medicine floor after initiation of 
burst steroids.

# Asthma exacerbation:
Patient has ___ history of poorly controlled asthma, 7 pack 
year smoking history. Per patient, she was dx at age ___. Follows 
at ___ with Dr. ___ past ___. Per patient, 
she is prescribed Pulmicort but admited that she does not know 
how to administer it appropriately. Patient uses her albuterol 
___ a week and has frequent SOB and cough. This admission, she 
noted that her wheezing began after cleaning her bathtub with 
strong chemicals. She was not wearing a mask that she usually 
wears when cleaning and her bathroom has no window or 
ventilation system. Physical exam was notable for diffuse 
wheezing bilaterally. In the ED, patient did not improve with 
nebulizer treatment and IV Solumedrol 125mg. CXR, physical exam 
and labs was not concerning from pneumonia. Pt was admitted to 
the ICU for further management. There, patient improved on 
duonebs and MethylPREDNISolone Sodium Succ 60 mg IV ___. Pt was transferred to the floor shortly after and 
continued to improved on Ipratropium-Albuterol Neb 1 NEB Q4H, 
PredniSONE 60 mg PO DAILY, Albuterol 0.083% Neb Soln 1 NEB IH 
Q2H:PRN. On the medicine service, patient was taught how to use 
her inhaler appropriately. She was discharged on albuterol and 
pulmicort with follow up with a pulmonologist Dr. ___ 
for possible ___. Walking saturation at discharge tolerated 
well with no SOB or desaturations. 

Chronic issues:
#Chronic Pain: Patient was continued on home ibuprofen, 
naproxen. 
#Depression/anxiety: patient was continued on home paroxetine 
without issue.

TRANSITIONAL ISSUES:
- Please consider PFT once exacerbation subsides
- Patient will complete 5 day course of PO Prednisone, end date 
___
- Patient discharged with Pulmicort, PRN albuterol and 
nebulizer, as well as, home services to help with medication 
administration / teaching

# Code:  Full
# Contact: Son ___ ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PARoxetine 30 mg PO QHS 
2. Naproxen 500 mg PO Q12H:PRN Pain - Moderate 
3. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 2 
puffs Q4-6H 
4. Ibuprofen 800 mg PO TID:PRN Pain - Moderate 

 
Discharge Medications:
1.  Albuterol 0.083% Neb Soln 1 NEB IH Q2H:PRN dyspnea 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 1 unit as needed 
Disp #*3 Vial Refills:*0 
2.  budesonide 180 mcg/actuation inhalation BID 
RX *budesonide [Pulmicort Flexhaler] 180 mcg/actuation (160 mcg 
delivered) 2 puffs twice a day Disp #*3 Inhaler Refills:*0 
3.  DiphenhydrAMINE 25 mg PO QHS:PRN insomnia 
RX *diphenhydramine HCl [Allergy (diphenhydramine)] 25 mg 0.5 
(One half) capsule(s) by mouth at night PRN for insomnia Disp 
#*30 Capsule Refills:*0 
4.  PredniSONE 40 mg PO DAILY Duration: 1 Day 
treat to SOB 
RX *prednisone 20 mg 2 tablet(s) by mouth tomorrow morning Disp 
#*1 Tablet Refills:*0 
5.  Ibuprofen 800 mg PO TID:PRN Pain - Moderate  
6.  Naproxen 500 mg PO Q12H:PRN Pain - Moderate 
RX *naproxen 500 mg 1 tablet(s) by mouth twice a day as needed 
for pain Disp #*60 Tablet Refills:*0 
7.  PARoxetine 30 mg PO QHS 
RX *paroxetine HCl 30 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
8.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 2 
puffs Q4-6H 
RX *albuterol sulfate [ProAir HFA] 90 mcg 1 puff as needed for  
shortness of breath Disp #*3 Inhaler Refills:*0 
9.nebulizer
___.___ Unspecified asthma with (acute) exacerbation

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Acute Asthma Exacerbation

Secondary Diagnosis:
- URI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you in the hospital. You were 
admitted for issues with your breathing which we feel is likely 
due to an asthma exacerbation. You improved significantly with 
frequent breathing treatment. It is very important that you 
continue to use your inhalers at home. You should also follow up 
with a lung doctor once you leave the hospital. 

We wish you all the best.

Your ___ Team
 
Followup Instructions:
___